US07700591B2
A cooled (0° C.) solution of tert-butyl 4-(3-hydroxyisoxazol-5-yl)piperidine-1-carboxylate (493 mg, 1.84 mmol) in 5 mL of THF was treated with toluenesulfonyl chloride (386 mg, 2.02 mmol) followed by triethylamine (295 μL, 2.12 mmol). The resulting mixture was warmed to rt and stirred for 2 h. The reaction mixture was filtered and the filtrate was concentrated. The residue was purified by MPLC (silica, 50% ethyl acetate/hexanes) to furnish tert-butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}isoxazol-5-yl)piperidine-1-carboxylate. 1H NMR (500 MHz, CDCl3) δ 7.87 (d, J=8.5 Hz, 2H), 7.39 (d, J=8.0 Hz, 2H), 6.06 (s, 1H), 4.15 (br m, 2H), 2.88 (m, 3H), 2.49 (s, 3H), 2.00 (dd, J=13, 2.5 Hz, 2H), 1.62 (dq, J=4.5, 12.5 Hz, 2H), 1.49 (s, 9H).

reactant | tert-butyl 4-(3-hydroxyisoxazol-5-yl)piperidine-1-carboxylate | 1.84 mmol, 493 mg | OC1=NOC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20N2O4
reactant | toluenesulfonyl chloride | 2.02 mmol, 386 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 2.12 mmol, 295 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}isoxazol-5-yl)piperidine-1-carboxylate | CC1=CC=C(C=C1)S(=O)(=O)OC1=NOC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H26N2O6S
